US07368471B2
{1-(4-Fluorobenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetic acid
The title compound was prepared from 1-(4-fluorobenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indole and oxalyl chloride in substantially the same manner, as described in Step 3 of Example 25. The product was obtained as a white solid; mp: 158-159° C. Mass spectrum (ESI, [M+H]+) m/z 458. 1HNMR (400 MHz, DMSO-d6): δ 14.00 (br s, 1H), 8.74 (s, 1H), 8.43 (s, 1H), 7.77 (d, 2H, J=6.7 Hz), 7.70 (d, 1H, J=8.6 Hz), 7.59 (dd, 1H, J=8.7 Hz and 1.7 Hz), 7.45 (d, 2H, J=8.1 Hz), 7.40 (d, 1H, J=8.7 Hz), 7.39 (d, 1H, J=8.5 Hz), 7.18 (t, 2H, J=9.1 Hz), and 5.61 ppm (s, 2H). Elemental Analysis for C24H15F4NO4.0.2 H2O: Calculated: C, 62.53; H, 3.37; N, 3.04. Found: C, 62.31, H, 3.20; N, 3.12.

reactant | 1-(4-fluorobenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indole | FC1=CC=C(CN2C=CC3=CC(=CC=C23)C2=CC=C(C=C2)OC(F)(F)F)C=C1 | C22H15F4NO
reactant | oxalyl chloride | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | H2O | O | H2O
product | {1-(4-Fluorobenzyl)-5-[4-(trifluoromethoxy)phenyl]-1H-indol-3-yl}(oxo)acetic acid | FC1=CC=C(CN2C=C(C3=CC(=CC=C23)C2=CC=C(C=C2)OC(F)(F)F)C(C(=O)O)=O)C=C1 | C24H15F4NO4
